US05262425
Mix methyl-2,3,4-tris(phenylmethoxy)-6-bromo-6-desoxy-α-D-mannopyranose (20.968 g, 39.75 mmol) and activated zinc dust (20.50 g, 314 mmol) in isopropanol (300 mL) and water (55 mL). Heat at reflux for 38 minutes, cool and filter. Rinse the zinc dust with a mixture of ethyl acetate/water, filter and dilute the filtrate with water. Extract with a mixture of ethyl acetate/cyclohexane (3×) and wash the combined organic extracts with water. Evaporate the solvent in vacuo to give 2,3,4-tris(phenylmethoxy)-5,6-dideoxy-D-lyxo-hex-5-enose.

reactant | methyl-2,3,4-tris(phenylmethoxy)-6-bromo-6-desoxy-α-D-mannopyranose | 39.75 mmol, 20.968 g | C[C@@]1(O)[C@@](O)([C@@](O)([C@](O)([C@H](O1)CBr)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H31BrO8
solvent | isopropanol | 300 mL | C(C)(C)O | C3H8O
solvent | water | 55 mL | O | H2O
catalyst | zinc | 314 mmol, 20.50 g | [Zn] | Zn
product | 2,3,4-tris(phenylmethoxy)-5,6-dideoxy-D-lyxo-hex-5-enose | C1(=CC=CC=C1)CO[C@](C=O)(O)[C@@](O)([C@](O)(C=C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C27H28O7
